US06677375B2
3-Trifluoromethoxybenzenemethanamine (1.15 g, 6 mmol) and 1,1,1-trifluoro-2,3-epoxypropane (0.67 g, 6 mmol) were combined and stirred at 80° C. for 1.5 h. The mixture was cooled to room temperature, and the resulting solid was recrystallized from hot hexanes. The white solid was isolated by vacuum filtration and washed with cold hexanes to give 0.67 g (37%) of pure 3-[[[3-(trifluoromethoxy)-phenyl]methyl]amino-1,1,1-trifluoro-2-propanol. 1H NMR (CDCl3) δ 7.37 (t, 1H), 7.24 (d, 1H), 7.15 (m, 2H), 3.99 (m, 1H), 3.85 (d, 2H), 2.98 (dd, 1H), 2.88 (dd, 1H), 2.79 (s, 1H). 19F NMR (CDCl3) δ−58.19 (s, 3F), −78.88 (s, 3F). HRMS calcd. for C11H11F6NO2: 304.0772 [M+H]+, found: 304.0794.

reactant | 3-Trifluoromethoxybenzenemethanamine | 6 mmol, 1.15 g | FC(OC=1C=C(C=CC1)CN)(F)F | C8H8F3NO
reactant | 1,1,1-trifluoro-2,3-epoxypropane | 6 mmol, 0.67 g | FC(C1CO1)(F)F | C3H3F3O
product | [[3-(trifluoromethoxy)-phenyl]methyl]amino-1,1,1-trifluoro-2-propanol | FC(OC=1C=C(C=CC1)CNC(C(F)(F)F)(C)O)(F)F | C11H11F6NO2
